Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][CH2:2][OH:3].[CH3:4][c:5]1[c:6]2[c:7]([n:8][n:9]1-[c:10]1[n:11][n:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([O:18][CH:19]([CH3:20])[CH3:21])[c:22]([C:23]#[N:24])[cH:25]3)[s:26]1)[CH2:27][CH2:28][NH:29][CH2:30]2>>[CH2:1]([CH2:2][OH:3])[N:29]1[CH2:28][CH2:27][c:7]2[c:6]([c:5]([CH3:4])[n:9](-[c:10]3[n:11][n:12][c:13](-[c:14]4[cH:15][cH:16][c:17]([O:18][CH:19]([CH3:20])[CH3:21])[c:22]([C:23]#[N:24])[cH:25]4)[s:26]3)[n:8]2)[CH2:30]1,[CH3:4][c:5]1[c:6]2[c:7]([n:8][n:9]1-[c:10]1[n:11][n:12][c:13](-[c:14]3[cH:15][cH:16][c:17]([O:18][CH:19]([CH3:20])[CH3:21])[c:22]([C:23]#[N:24])[cH:25]3)[s:26]1)[CH2:27][CH2:28][NH:29][CH2:30]2.[Br:101][CH2:1][CH2:2][OH:3]>>[CH2:1]([CH2:2][OH:3])[N:29]1[CH2:28][CH2:27][c:7]2[c:6]([c:5]([CH3:4])[n:9](-[c:10]3[n:11][n:12][c:13](-[c:14]4[cH:15][cH:16][c:17]([O:18][CH:19]([CH3:20])[CH3:21])[c:22]([C:23]#[N:24])[cH:25]4)[s:26]3)[n:8]2)[CH2:30]1,SN2,"[(29, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:1]#[C:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:17][C:18]2=[O:19]>>[NH2:1][CH2:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:17][C:18]2=[O:19],[N:1]#[C:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:17][C:18]2=[O:19].[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[NH2:1][CH2:2][c:3]1[cH:4][cH:5][c:6]2[c:7]([cH:8]1)[CH:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:17][C:18]2=[O:19],nitrile_reduction,"[([302, 302.1], 2), ([2, 1], 301), ([302, 302.1], 2), ([2, 1], 302), ([301, 1], 303.1), ([303.1, 303], 303), ([302, 1], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]([Br:9])[cH:10][c:11]([N+:12](=[O:13])[O-:14])[cH:15][c:16]12.[NH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]1>>[c:1]1([NH:17][CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]2)[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]([Br:9])[cH:10][c:11]([N+:12](=[O:13])[O-:14])[cH:15][c:16]12,[Cl:101][c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]([Br:9])[cH:10][c:11]([N+:12](=[O:13])[OH:14])[cH:15][c:16]12.[NH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]1>>[c:1]1([NH:17][CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]2)[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[c:8]([Br:9])[cH:10][c:11]([N+:12](=[O:13])[OH:14])[cH:15][c:16]12,SNAr(ortho),"[(17, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH:2]([C:3]([O:4][CH3:5])([CH3:6])[CH3:7])[NH:8][C:9](=[O:10])[O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16].[CH3:17][c:18]1[n:19][cH:20][c:21]2[n:22]1[C:23](=[O:24])[N:25]([CH:26]1[CH2:27][CH2:28][NH:29][CH2:30][CH2:31]1)[CH2:32]2>>[C:1]([CH:2]([C:3]([O:4][CH3:5])([CH3:6])[CH3:7])[NH:8][C:9](=[O:10])[O:11][C:12]([CH3:13])([CH3:14])[CH3:15])(=[O:16])[N:29]1[CH2:28][CH2:27][CH:26]([N:25]2[C:23](=[O:24])[n:22]3[c:18]([CH3:17])[n:19][cH:20][c:21]3[CH2:32]2)[CH2:31][CH2:30]1,[OH:101][C:1]([CH:2]([C:3]([O:4][CH3:5])([CH3:6])[CH3:7])[NH:8][C:9](=[O:10])[O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16].[CH3:17][c:18]1[n:19][cH:20][c:21]2[n:22]1[C:23](=[O:24])[N:25]([CH:26]1[CH2:27][CH2:28][NH:29][CH2:30][CH2:31]1)[CH2:32]2.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]([C:3]([O:4][CH3:5])([CH3:6])[CH3:7])[NH:8][C:9](=[O:10])[O:11][C:12]([CH3:13])([CH3:14])[CH3:15])(=[O:16])[N:29]1[CH2:28][CH2:27][CH:26]([N:25]2[C:23](=[O:24])[n:22]3[c:18]([CH3:17])[n:19][cH:20][c:21]3[CH2:32]2)[CH2:31][CH2:30]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (29, 1), ([1, 16], 16), (303, 29.1), ([29.1, 29], 29), (16, [16, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][cH:8][cH:9][c:10]1[O:11][c:12]1[cH:13][cH:14][c:15]([Cl:16])[cH:17][cH:18]1.[NH2:19][OH:20]>>[C:1](=[O:2])(/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][cH:8][cH:9][c:10]1[O:11][c:12]1[cH:13][cH:14][c:15]([Cl:16])[cH:17][cH:18]1)[NH:19][OH:20],C[O:101][C:1](=[O:2])/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][cH:8][cH:9][c:10]1[O:11][c:12]1[cH:13][cH:14][c:15]([Cl:16])[cH:17][cH:18]1.[NH2:19][OH:20]>>[C:1](=[O:2])(/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][cH:8][cH:9][c:10]1[O:11][c:12]1[cH:13][cH:14][c:15]([Cl:16])[cH:17][cH:18]1)[NH:19][OH:20],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
